US06573272B1
a) 2-Benzoyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]indole
To a stirred solution of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (2.0 g, 11.6 mmole) in dry DMF (20 mL) at RT was added benzoic acid (1.56 g, 12.77 mmole), 1-hydroxybenzotriazole hydrate (1.72 g, 12.77 mmole) and diisopropylethylamine (1.65 g, 12.77 mmole). After 10 min, EDC (2.44 g, 12.77 mmole) was added and the reaction was allowed to stir for 12 hr. The reaction contents were poured into H2O (100 mL) and extracted with EtOAc (2×100 mL). The combined organic phases were washed sequentially with H2O and brine, then were dried over Na2SO4. Concentration under reduced pressure and purification on silica (hexanes/EtOAc, 1:1) afforded the title compound (3.0 g, 94%) as a white solid: MS (ES) m/e 277 (M+H)+.

reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 11.6 mmole, 2.0 g | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | benzoic acid | 12.77 mmole, 1.56 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-hydroxybenzotriazole hydrate | 12.77 mmole, 1.72 g | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 12.77 mmole, 1.65 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC | 12.77 mmole, 2.44 g
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | 100 mL | O | H2O
product | 2-Benzoyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]indole | 3.0 g, 94% | C(C1=CC=CC=C1)(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C18H16N2O
